US04496571
A mixture of 6-phthalimidohexanamidine hydrochloride (71.1 g.), triethylamine (170 ml.) and 2-chloroacrylonitrile (57.4 ml.) in EtOH (500 ml.) was heated under reflux for 2 hours. The solvent was evaporated and the residue was partitioned between EtOAc and 2 N aqueous HCl. The aqueous layer was basified with 10 N aqueous NaOH and the product was extracted with EtOAc, dried (MgSO4) and evaporated to dryness. The residual gum was dissolved in EtOAc and treated with excess of a solution of maleic acid in EtOAc. The precipitated solid was dissolved in water, basified with 10 N aqueous sodium hydroxide, extracted with EtOAc, the extract dried (MgSO4) and evaporated. The residual solid was triturated with acetonitrile to give 4-amino-2-(5-phthalimidopentyl)pyrimidine as a brown solid (37.9 g.), m.p. 101°-104°.

reactant | 6-phthalimidohexanamidine hydrochloride | 71.1 g | Cl.C1(C=2C(C(N1CCCCCC(=N)N)=O)=CC=CC2)=O
reactant | triethylamine | 170 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloroacrylonitrile | 57.4 ml | ClC(C#N)=C | C3H2ClN
solvent | EtOH | 500 ml | CCO | C2H6O
product | 4-amino-2-(5-phthalimidopentyl)pyrimidine | NC1=NC(=NC=C1)CCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C17H18N4O2
